US04933355
2-Diphenylaminothiazol-4-ylmethanol
The reaction described in Preparation 15 was repeated, but using 27 g of ethyl 2-diphenylaminothiazole-4-carboxylate, 4.7 g of lithium aluminum hydride and 400 ml of tetrahydrofuran, giving the title compound as pale yellow prisms.

reactant | ethyl 2-diphenylaminothiazole-4-carboxylate | 27 g | C1(=CC=CC=C1)N(C=1SC=C(N1)C(=O)OCC)C1=CC=CC=C1 | C18H16N2O2S
reactant | lithium aluminum hydride | 4.7 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | 2-Diphenylaminothiazol-4-ylmethanol | C1(=CC=CC=C1)N(C=1SC=C(N1)CO)C1=CC=CC=C1 | C16H14N2OS
